US05962470
5-{4-[2-(7-Azaindol-1-yl)ethoxy]benzyl}-3-triphenylmethylthiazolidine-2,4-dione
A procedure similar to that described in Preparation 4 was repeated, except that 1.77 g of 2-(7-azaindol-1-yl)ethanol (prepared as described in Preparation 18), 4.40 g of 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione, 2.35 ml of tributylphosphine, 2.39 g of 1,1'-(azodicarbonyl)dipiperidine and 45 ml of anhydrous benzene were used, to give 4.58 g of the title compound, melting at 167.5-168.9° C.

reactant | 2-(7-azaindol-1-yl)ethanol | 1.77 g | N1(C=CC2=CC=CN=C12)CCO | C9H10N2O
reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 4.40 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 2.35 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)dipiperidine | 2.39 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | benzene | 45 ml | C1=CC=CC=C1 | C6H6
product | 5-{4-[2-(7-Azaindol-1-yl)ethoxy]benzyl}-3-triphenylmethylthiazolidine-2,4-dione | 4.58 g | N1(C=CC2=CC=CN=C12)CCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C38H31N3O3S
